US06197975B1
Step 2.2B [2-(3,5-dimethylphenyl)-1H-indol-5-yl]-carbamic acid benzyl ester
To a solution of 2-(3,5-dimethylphenyl)-5-amino-1H-indole (1.16 g in 60 mL dry methylene chloride) at −60 ° C. was added 0.86 mL benzyl chloroformate followed by 1 mL diisopropylethylamine and the mixture warmed slowly to 0° C. After 45 minutes, the reaction was quenched by the addition of saturated aqueous ammonium chloride and the mixture extracted with methylene chloride. The organic portion was washed with brine, dried over sodium sulfate and concentrated in vacuo. Purification by flash chromatography (hexane:methylene chloride:ethyl acetate, 8:8:1; then 7:7:1) gave the title compound (1.68 g).

reactant | benzyl chloroformate | 0.86 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(3,5-dimethylphenyl)-5-amino-1H-indole | 60 mL, 1.16 g | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1)N | C16H16N2
product | [2-(3,5-dimethylphenyl)-1H-indol-5-yl]-carbamic acid benzyl ester | 1.68 g | C(C1=CC=CC=C1)OC(NC=1C=C2C=C(NC2=CC1)C1=CC(=CC(=C1)C)C)=O | C24H22N2O2
